US04248883
3-Propanoylthio-2-methylpropanoic acid
A mixture of thiopropanoic acid (50 g) and methacrylic acid (34.1 g) was heated on a steam bath for 3 hours and allowed to stand at room temperature overnight. The reaction mixture was distilled under reduced pressure to give the title compound, b.p. 135°-138° C. (2 mmHg).

reactant | thiopropanoic acid | 50 g | C(CC)(=S)O | C3H6OS
reactant | methacrylic acid | 34.1 g | C(C(=C)C)(=O)O | C4H6O2
product | 3-Propanoylthio-2-methylpropanoic acid | C(CC)(=O)SCC(C(=O)O)C | C7H12O3S
